US07265120B2
To a solution of DMSO (0.75 ml) in CH2Cl2 (5 ml) was added trifluoromethanesulfonic anhydride (1.5 ml) dropwise at <−75° C. under nitrogen. A suspension of 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (3.00 g) in a mixture of DMSO (5 ml) and CH2Cl2 (6 ml) was added and stirred at −65° C. for 2 hours and at −55° C. for one hour. The reaction mixture was quenched with 1N aq. NaOH (20 ml) and stirred at 15° C. for 10 minutes. An organic layer was collected, dried over MgSO4 and concentrated under reduced pressure to give a solid. The solid was suspended in acetone and collected by filtration to give 6-{6-bromo-5-[(dimethyl-lambda˜4˜-sulfanylidene)amino]-3-phenyl-2-pyrazinyl}-2-isopropyl-3(2H)-pyridazinone (3.16 g).

reactant | trifluoromethanesulfonic anhydride | 1.5 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 3.00 g | NC=1N=C(C(=NC1Br)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H16BrN5O
reactant | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 6 ml | C(Cl)Cl | CH2Cl2
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
solvent | acetone | CC(=O)C | C3H6O
solvent | DMSO | 0.75 ml | CS(=O)C | C2H6OS
product | 6-{6-bromo-5-[(dimethyl-lambda˜4˜-sulfanylidene)amino]-3-phenyl-2-pyrazinyl}-2-isopropyl-3(2H)-pyridazinone | 3.16 g | BrC1=C(N=C(C(=N1)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1)N=S(C)C | C19H20BrN5OS
